US03960863
2-Methyl-3-[2-(4-m-tolyl-1-piperazinyl)ethyl]-7 -chloro-4H-pyrido[1,2-a]pyrimidin-4-one
A mixture of 1.3 g of 2-methyl-3-(2-chloroethyl)-7-chloro-4H-pyrido[1,2-a]pyrimidin-4-one, 2.1 g of 1-(m-tolyl)piperazine and 20 ml of toluene was refluxed for 30 hours. After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The obtained residue was purified by means of column chromatography using alumina and recrystallized from a mixture of ethanol and n-hexane to give 0.8 g of the desired compound as pale yellow scales, m.p. 119° - 120°C.

reactant | 2-methyl-3-(2-chloroethyl)-7-chloro-4H-pyrido[1,2-a]pyrimidin-4-one | 1.3 g | CC=1N=C2N(C(C1CCCl)=O)C=C(C=C2)Cl | C11H10Cl2N2O
reactant | 1-(m-tolyl)piperazine | 2.1 g | C1(=CC(=CC=C1)N1CCNCC1)C | C11H16N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-3-[2-(4-m-tolyl-1-piperazinyl)ethyl]-7 -chloro-4H-pyrido[1,2-a]pyrimidin-4-one | 0.8 g | CC=1N=C2N(C(C1CCN1CCN(CC1)C=1C=C(C=CC1)C)=O)C=C(C=C2)Cl | C22H25ClN4O
